US04587340
2-Amino-3-cyano-5-chloromethyl pyrazine (0.95 g) was reacted with a large excess of dry methanol, under nitrogen, at reflux, for about 18 hours. The resulting reaction mixture was filtered and the filtrate was taken to dryness by evaporation. A yellow residue was collected and extracted twice with boiling methylene chloride. These extracts were filtered and the solvent evaporated to give 2-amino-3-cyano-5-methoxymethylpyrazine which was then treated with an excess of guanidine in methanol according to the method of Taylor (J. Org. Chem., 2817, 38, (1973)). Most of the product of this reaction precipitated and was collected by filtration. The filtrate was mixed with silica gel, stripped of solvent by evaporation, and the residue was placed on a silica gel column. This column was eluted with methanol (5%) in ethylacetate to yield a second crop of product which was added to that previously collected. The combined crops were recrystallized from methanol to yield 2,4-diamino-6-methoxymethyl pteridine (mp 248°-251°).

reactant | 2-Amino-3-cyano-5-chloromethyl pyrazine | 0.95 g | NC1=NC=C(N=C1C#N)CCl | C6H5ClN4
reactant | methanol | CO | CH4O
product | 2-amino-3-cyano-5-methoxymethylpyrazine | NC1=NC=C(N=C1C#N)COC | C7H8N4O
